US07687495B2
e) (2S,4R,5R)-5-hydroxy-4-(4-methoxy-phenyl)-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-ethyl ester
A mixture of 1.2 g (2S,4R,5R)-5-hydroxy-4-(4-methoxy-phenyl)-piperidine-2-carboxylic acid ethyl ester in 40 ml of ethyl acetate, 20 ml of saturated aqueous sodium carbonate solution and 0.42 ml of benzyl chlorformate is stirred for 1 hour at 0° C., diluted with ethyl acetate and the organic phase is dried over sodium sulfate. The organic phase is concentrated under reduced pressure and the residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as a yellow oil. Rf=0.3 (EtOAc-heptane 1:1); Rt=4.34.

reactant | (2S,4R,5R)-5-hydroxy-4-(4-methoxy-phenyl)-piperidine-2-carboxylic acid ethyl ester | 1.2 g | C(C)OC(=O)[C@H]1NC[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)O | C15H21NO4
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzyl chlorformate | 0.42 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (2S,4R,5R)-5-hydroxy-4-(4-methoxy-phenyl)-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-ethyl ester | CCOC(=O)[C@H]1N(C[C@@H]([C@H](C1)C1=CC=C(C=C1)OC)O)C(=O)OCC1=CC=CC=C1 | C23H27NO6
